US06130238
A suspension of 2.3 g 5-chlorosulfonyl-2-oxindole in 10 mL 2M dimethylamine in methanol was stirred at room temperature for 4 hours at which time a white solid formed. The precipitate was collected by vacuum filtration, washed with 5 mL of iN sodium hydroxide and 5 mL of iN hydrochloric acid and dried under vacuum at 40° C. overnight to give 1.9 g (79% yield) of 5-dimethylaminosulfonyl-2-oxindole.

reactant | 5-chlorosulfonyl-2-oxindole | 2.3 g | ClS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C8H6ClNO3S
reactant | dimethylamine | 2M, 10 mL | CNC | C2H7N
solvent | methanol | CO | CH4O
product | 5-dimethylaminosulfonyl-2-oxindole | 1.9 g, 79% yield | CN(S(=O)(=O)C=1C=C2CC(NC2=CC1)=O)C | C10H12N2O3S
